US06930207B2
6,6,6-trifluoro-1-[4-(1-naphthyl)phenyl]hexane-1,5-dione
1.0 g 1-naphthaleneboronic acid, 1.0 g potassium carbonate and 0.06 g tetrakis(triphenylphosphine)palladium(0) in 90 ml toluene were combined under a protective gas atmosphere. A solution of 1.0 g 1-(4-bromophenyl)-6,6,6-trifluorohexane-1,5-dione in 10 ml toluene was added dropwise to this initial solution and it was stirred for 3 days at 90° C. It was allowed to cool to RT, 13 ml saturated aqueous sodium hydrogen carbonate solution was added dropwise thereto and the phases were separated. The organic phase was washed in succession with water, aqueous potassium hydrogen sulphate solution, water and saturated aqueous common salt solution. The organic phase was dried over sodium sulphate and the solvent was evaporated in the WV. Purification of the remaining residue by means of flash chromatography (stationary phase: silica gel, mobile phase: n-hexane/EA 3:2 v/v) and subsequent recrystallisation of the combined product fractions from EA/n-hexane (2:3) yielded 0.75 g of the title compound, m.p.=79.7-82.5° C.

reactant | 1-naphthaleneboronic acid | 1.0 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-bromophenyl)-6,6,6-trifluorohexane-1,5-dione | 1.0 g | BrC1=CC=C(C=C1)C(CCCC(C(F)(F)F)=O)=O | C12H10BrF3O2
reactant | sodium hydrogen carbonate | 13 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6,6,6-trifluoro-1-[4-(1-naphthyl)phenyl]hexane-1,5-dione | 0.75 g | FC(C(CCCC(=O)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12)=O)(F)F | C22H17F3O2
